US05863931
(S)-N6 -(1-Iminoethyl) lysine hydrochloride
Essentially by the methods of Example 1 L-lysine hydrochloride (7.3 g, 4 mmol) was converted to the copper complex which was reacted with ethyl acetimidate hydrochloride (7.5 g, 60 mmol). The title compound, isolated as described in Example 1, was obtained as a hygroscopic amorphous powder.

reactant | L-lysine hydrochloride | 4 mmol, 7.3 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | ethyl acetimidate hydrochloride | 60 mmol, 7.5 g | Cl.C(C)(OCC)=N
product | (S)-N6 -(1-Iminoethyl) lysine hydrochloride | Cl.N=C(C)NCCCC[C@H](N)C(=O)O | InChI=1S/C8H17N3O2.ClH/c1-6(9)11-5-3-2-4-7(10)8(12)13;/h7H,2-5,10H2,1H3,(H2,9,11)(H,12,13);1H/t7-;/m0./s1
